US09193707B2
4. Synthesis of 2-(2-aminoethyl)quinazoline-4-carboxylic acid
Into a 250-mL 4-necked round-bottom flask, was placed ethyl 2-[2-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)ethyl]quinazoline-4-carboxylate (7 g, 18.65 mmol, 1.00 equiv). This was followed by the addition of KOH (20.9 g, 372.51 mmol, 19.98 equiv) in water (20 mL) dropwise with stirring. The resulting solution was stirred for 18 h at 100° C. The reaction was then poured into 250 mL of water. The pH value of the solution was adjusted to 7 with hydrogen chloride (2 mol/L). The resulting solution was extracted with 5×100 mL of ethyl acetate and the organic layers combined. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 3.2 g (79%) of 2-(2-aminoethyl)quinazoline-4-carboxylic acid as a white solid. MS (ESI) m/z 218 ([M+H]+).

reactant | ethyl 2-[2-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)ethyl]quinazoline-4-carboxylate | 18.65 mmol, 7 g, 1.00 equiv | O=C1N(C(C2=CC=CC=C12)=O)CCC1=NC2=CC=CC=C2C(=N1)C(=O)OCC | C21H17N3O4
reactant | KOH | 372.51 mmol, 20.9 g, 19.98 equiv | [OH-].[K+]
reactant | hydrogen chloride | 2 mol/L | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | water | 250 mL | O | H2O
product | 2-(2-aminoethyl)quinazoline-4-carboxylic acid | NCCC1=NC2=CC=CC=C2C(=N1)C(=O)O | C11H11N3O2
